US04499269
2-Amino-4-phenylimino-4H-1,3,5-triazino[2,1-b]benzothiazole
Phenyl isocyanide dichloride (0.18 g) in dry tetrahydrofuran (5 ml) was added to a stirred solution of 2-benzothiazolylguanidine (0.2 g) and diisopropylethylamine (0.27 g) in dry tetrahydrofuran (10 ml). The mixture was refluxed for sixteen days and on cooling the title compound was obtained as a white crystalline solid (23 mg) mp>250°.

reactant | Phenyl isocyanide dichloride | 0.18 g | C1=CC=C(C=C1)N=C(Cl)Cl | C7H5Cl2N
reactant | 2-benzothiazolylguanidine | 0.2 g | S1C(=NC2=C1C=CC=C2)N=C(N)N | C8H8N4S
reactant | diisopropylethylamine | 0.27 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-Amino-4-phenylimino-4H-1,3,5-triazino[2,1-b]benzothiazole | NC=1N=C2SC3=C(N2C(N1)=NC1=CC=CC=C1)C=CC=C3 | C15H11N5S
